US06716851B2
4-(3-Methoxyanilino)-2-(2-piperidinyl)-6-(trifluoromethyl)pyrimidine
To a solution of 4-(3-methoxyanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.144 mmol) in methanol (20 ml) was added concentrated hydrochloric acid (200 ul). The mixture was hydrogenated over palladium (5 wt % on activated carbon) at 50 psi for 6 h. The mixture was filtered through Celite. The filtrate was rotary evaporated to dryness and purified by column chromatography to give a brown oil (3 mg, 6%). 1H NMR (CDCl3): 7.83 (s, 1H), 7.31 (d, J=7.8 Hz, 1H), 6.90-6.85 (m, 3H), 6.77 (dd, J=1.8, 7.8 Hz, 1H), 3.90 (dd, J=3.0, 10.5 Hz, 1H), 3.81 (s, 3H), 3.29 (d, J=11.4 Hz, 1H), 2.88-2.80 (m, 2H), 2.25 (d, J=10.5 Hz, 1H), 1.92 (s, 1H), 1.69-1.56 (m, 4H).

reactant | 4-(3-methoxyanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.144 mmol, 50 mg | COC=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CC=C2)C=CC1 | C17H13F3N4O
reactant | hydrochloric acid | 200 ul | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | 4-(3-Methoxyanilino)-2-(2-piperidinyl)-6-(trifluoromethyl)pyrimidine | 3 mg, 6% | COC=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C2NCCCC2)C=CC1 | C17H19F3N4O
